US07915443B2
(S)-5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide
In a manner similar to that described in Example 449, 2,5-Dimethyl-2H-pyrazole-3-carboxylic acid (3-ethynyl-phenyl)-amide (0.0354 g, 0.222 mmol) and (S)-5-bromo-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide (0.050 g, 0.148 mmol) were reacted to give the title compound as a white solid (47 mg, 64%).

reactant | 2,5-Dimethyl-2H-pyrazole-3-carboxylic acid (3-ethynyl-phenyl)-amide | 0.222 mmol, 0.0354 g | C(#C)C=1C=C(C=CC1)NC(=O)C=1N(N=C(C1)C)C | C14H13N3O
reactant | (S)-5-bromo-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide | 0.148 mmol, 0.050 g | BrC=1C=NC=C(C(=O)N=[S@](C2=CC=CC=C2)(=O)C)C1 | C13H11BrN2O2S
product | (S)-5-[(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}phenyl)ethynyl]-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide | 47 mg, 64% | CN1N=C(C=C1C(=O)NC=1C=C(C=CC1)C#CC=1C=NC=C(C(=O)N=[S@](C2=CC=CC=C2)(=O)C)C1)C | C27H23N5O3S
